US05773463
(±)cis-1-[(4-Phenoxy)phenoxy]-2-tert-butoxycarbonylaminoindane
The title compound was prepared in a similar manner to Preparation 18 from (±) N-tert-butoxycarbonyl-1,2-iminoindane (3 g, 13 mmol), 4-phenoxyphenol (2.42 g, 13 mmol), pyridinium p-toluenesulfonate (50 mg) and chloroform (100 ml). After a reaction time of 3 h, the reaction was diluted with chloroform (100 ml) then washed sequentially with saturated aq. sodium bicarbonate, water and brine. After drying over Na2 SO4, volatiles were removed in vacuo and the residue subjected to column chromatography on neutral alumina eluting with 10% diethyl ether in hexanes to afford the title compound (2.16 g) as a foam.

reactant | (±) N-tert-butoxycarbonyl-1,2-iminoindane | 13 mmol, 3 g | C(C)(C)(C)OC(=O)N1C2C1CC1=CC=CC=C21 | C14H17NO2
reactant | 4-phenoxyphenol | 13 mmol, 2.42 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-[(4-Phenoxy)phenoxy]-2-tert-butoxycarbonylaminoindane | 2.16 g | O(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C26H27NO4
